US07576135B2
2′-methyl-[1,1′-biphenyl]-4-carbaldehyde
The method described in Referential Example 237 was performed by use of 2-bromotoluene and 4-formylbenzene boronic acid, whereby the title compound was obtained.

reactant | 2-bromotoluene | BrC1=C(C=CC=C1)C | C7H7Br
reactant | 4-formylbenzene boronic acid | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
product | 2′-methyl-[1,1′-biphenyl]-4-carbaldehyde | CC1=C(C=CC=C1)C1=CC=C(C=C1)C=O | C14H12O
